US06498185B1
2-Methoxycarbonyl-3-chloro-4-cyanomethylthiophene (2 g, 9.27 mmol) was dissolved in THF (100 mL) and BH3-THF (18.6 mL of a 1 M solution in THF, 18.6 mmol) was added. After stirring for 16 hours at ambient temperature, the reaction was quenched with water followed by 1 M NaOH. Potassium carbonate was added to afford two layers. The organic layer was separated and concentrated in vacuo to afford 2-methoxycarbonyl-3-chloro-4-(2-aminoethyl)thiophene.

reactant | 2-Methoxycarbonyl-3-chloro-4-cyanomethylthiophene | 9.27 mmol, 2 g | COC(=O)C=1SC=C(C1Cl)CC#N | C8H6ClNO2S
reactant | BH3-THF | B.C1CCOC1
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-methoxycarbonyl-3-chloro-4-(2-aminoethyl)thiophene | COC(=O)C=1SC=C(C1Cl)CCN | C8H10ClNO2S
